US08071768B2
b. 4-[7-(3-Methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
4-[7-(3-methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (7.4 mg, 16 μmol), as prepared in Example 65c, and TFA (100 μL, 1.35 mmol) was capped tightly and stirred at 100° C. (aluminum block) for 5 min. The reaction was then concentrated, and pyridine (100 μL) was added to give a homogeneous solution. (4-Morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride (7.5 mg, 20 μmol) was then added in one portion at rt, and the solution was stirred at 80° C. for 10 min, then at rt overnight. The reaction was then concentrated and subjected to silica flash chromatography (4:3→3:5 DCM/acetone) to afford the title compound as an off-white semisolid (3.5 mg, 39%). 1H-NMR (400 MHz, 95:5 v/v CDCl3:CD3OD) δ 9.10 (s, 1H), 8.09 (d, 1H), 7.33-7.25 (m, 4H), 6.89 (m, 2H), 4.27 (m, 4H), 3.87 (m, 4H), 3.70 (m, 1H), 3.38 (t, 2H), 3.17-3.07 (m, 6H), 2.96 (s, 3H), 2.20-2.05 (m, 4H), 2.01-1.92 (m, 2H). LC/MS (ESI): calcd mass 568.2, found 569.1 (MH)+.

reactant | 4-[7-(3-methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 16 μmol, 7.4 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCNS(=O)(=O)C | C22H32N4O5S
reactant | TFA | 1.35 mmol, 100 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | aluminum | [Al] | Al
reactant | (4-Morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | 20 μmol, 7.5 mg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
product | 4-[7-(3-Methanesulfonylamino-propoxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 3.5 mg, 39% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCNS(=O)(=O)C | C28H36N6O5S
